**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Auxiliary Gate Drive Transformer
* Matchcode:              WE-AGDT
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt	AGDT_EP7_750317893		1  3  2  4  8  5	
.param RxLkg=875.14ohm				
.param Leakage=0.328uh				
Rlkg	1	1a	{RxLkg*2}	
L_Lkg	1	1a	{Leakage*2}	
Rlkg2	2	2a	{RxLkg*2}	
L_Lkg2	2	2a	{Leakage*2}	
Lpri1	1a	3b	17.672uH	
Rser1	3b	3	166mohm	
Lpri2	2a	4b	17.672uH	
Rser2	4b	4	166mohm	
Lsec1	8	5a	72uH	
Rser5	5a	5	395mohm	
K Lpri1 Lpri2   Lsec1        1				
.param Cprm1=9.755pf				
.param Cprm2=9.755pf				
.param Rdmp1=48026.1ohm				
.param Rdmp2=48026.1ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	8	0	20meg	
Rg19	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750317894		1  4  8  5  7  6	
.param RxLkg=1097.35ohm				
.param Leakage=0.255uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	4b	17.745uH	
Rser1	4b	4	85mohm	
Lsec1	8	5a	43.556uH	
Rser5	5a	5	260mohm	
Lsec2	7	6a	3.556uH	
Rser6	6a	6	85mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=7.5pf				
.param Rdmp1=77459.69ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	5	0	20meg	
Rg20	6	0	20meg	
.ends				

.subckt	AGDT_EP7_750318114		1  3  2  4  8  6	
.param RxLkg=1249.42ohm				
.param Leakage=0.285uh				
Rlkg	1	1a	{RxLkg*2}	
L_Lkg	1	1a	{Leakage*2}	
Rlkg2	2	2a	{RxLkg*2}	
L_Lkg2	2	2a	{Leakage*2}	
Lpri1	1a	3b	5.715uH	
Rser1	3b	3	120mohm	
Lpri2	2a	4b	5.715uH	
Rser2	4b	4	120mohm	
Lsec1	8	6a	24uH	
Rser5	6a	6	285mohm	
K Lpri1 Lpri2   Lsec1        1				
.param Cprm1=10.84pf				
.param Cprm2=10.84pf				
.param Rdmp1=26303.65ohm				
.param Rdmp2=26303.65ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	8	0	20meg	
Rg19	6	0	20meg	
.ends				

.subckt	AGDT_EP7_750318131		1  3  2  4  8  6  7  5	
.param RxLkg=1517.91ohm				
.param Leakage=0.27uh				
Rlkg	1	1a	{RxLkg*2}	
L_Lkg	1	1a	{Leakage*2}	
Rlkg2	2	2a	{RxLkg*2}	
L_Lkg2	2	2a	{Leakage*2}	
Lpri1	1a	3b	6.73uH	
Rser1	3b	3	94mohm	
Lpri2	2a	4b	6.73uH	
Rser2	4b	4	94mohm	
Lsec1	8	6a	16.938uH	
Rser5	6a	6	205mohm	
Lsec2	7	5a	1.383uH	
Rser6	5a	5	71mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1				
.param Cprm1=5.65pf				
.param Cprm2=5.65pf				
.param Rdmp1=39353.16ohm				
.param Rdmp2=39353.16ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	2	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rdmp2	2	4	{Rdmp2}	
Rg3	1	0	20meg	
Rg4	2	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750318207		1  4  8  5	
.param RxLkg=1822.36ohm				
.param Leakage=0.539uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	4b	26.461uH	
Rser1	4b	4	240mohm	
Lsec1	8	5a	38.88uH	
Rser5	5a	5	353mohm	
K Lpri1    Lsec1        1				
.param Cprm1=8.1pf				
.param Rdmp1=91287.02ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	8	0	20meg	
Rg19	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750318208		1  4  8  5  7  6	
.param RxLkg=1748.22ohm				
.param Leakage=0.325uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	4b	26.675uH	
Rser1	4b	4	155mohm	
Lsec1	8	5a	27uH	
Rser5	5a	5	250mohm	
Lsec2	7	6a	2.204uH	
Rser6	6a	6	85mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=3.2pf				
.param Rdmp1=145236.83ohm				
Cpri1	1	4a	{Cprm1}	
Rser13	4a	4	10mohm	
Rdmp1	1	4	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	4	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	5	0	20meg	
Rg20	6	0	20meg	
.ends				

.subckt	AGDT_EP7_750318616		1  3  2  4  8  5	
.param RxLkg=585.54ohm				
.param Leakage=0.12uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	9.88uH	
Rser1	3b	3	50mohm	
Laux1	2	4a	6.944uH	
Rser3	4a	4	104mohm	
Lsec1	8	5a	27.778uH	
Rser5	5a	5	260mohm	
K Lpri1  Laux1  Lsec1        1				
.param Cprm1=10.5pf				
.param Rdmp1=48795.03ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg5	2	0	20meg	
Rg7	3	0	20meg	
Rg9	4	0	20meg	
Rg11	8	0	20meg	
Rg19	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750319077		2  1  4  3  5  6  7  8	
.param RxLkg=568.63ohm				
.param Leakage=0.39uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	1b	41.61uH	
Rser1	1b	1	195mohm	
Laux1	4	3a	10.5uH	
Rser3	3a	3	132mohm	
Lsec1	5	6a	85.714uH	
Rser5	6a	6	1300mohm	
Lsec2	7	6a	21.429uH	
Rser6	6a	6	700mohm	
Lsec3	6	8a	21.429uH	
Rser7	8a	8	700mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=28pf				
.param Rdmp1=61237.34ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	3	0	20meg	
Rg11	5	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg21	8	0	20meg	
.ends				

.subckt	AGDT_EP7_750319177		1  3  8  6	
.param RxLkg=1513.83ohm				
.param Leakage=0.55uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	29.45uH	
Rser1	3b	3	45mohm	
Lsec1	8	6a	83.333uH	
Rser5	6a	6	115mohm	
K Lpri1    Lsec1        1				
.param Cprm1=11pf				
.param Rdmp1=82572.36ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	8	0	20meg	
Rg19	6	0	20meg	
.ends				

.subckt	AGDT_EP7_750319282		2  1  4  3  5  6  7  8	
.param RxLkg=586.95ohm				
.param Leakage=0.65uh				
Rlkg	2	2a	{RxLkg}	
L_Lkg	2	2a	{Leakage}	
Lpri1	2a	1b	41.35uH	
Rser1	1b	1	215mohm	
Laux1	4	3a	17.357uH	
Rser3	3a	3	196mohm	
Lsec1	5	6a	262.5uH	
Rser5	6a	6	2400mohm	
Lsec2	6	8a	17.357uH	
Rser6	8a	8	660mohm	
Lsec3	7	6a	17.357uH	
Rser7	6a	6	660mohm	
K Lpri1  Laux1  Lsec1 Lsec2 Lsec3      1				
.param Cprm1=73pf				
.param Rdmp1=37925.76ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rg3	2	0	20meg	
Rg5	4	0	20meg	
Rg7	1	0	20meg	
Rg9	3	0	20meg	
Rg11	5	0	20meg	
Rg13	7	0	20meg	
Rg19	6	0	20meg	
Rg20	8	0	20meg		
.ends				

.subckt	AGDT_EP7_750319331		1  3  8  6	
.param RxLkg=2970.44ohm				
.param Leakage=1.5uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	73.5uH	
Rser1	3b	3	85mohm	
Lsec1	8	6a	75uH	
Rser5	6a	6	85mohm	
K Lpri1    Lsec1        1				
.param Cprm1=8.5pf				
.param Rdmp1=148522.25ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	8	0	20meg	
Rg19	6	0	20meg	
.ends				

.subckt	AGDT_EP7_750319496		1  3  8  6  7  5	
.param RxLkg=1192.28ohm				
.param Leakage=0.275uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	6.725uH	
Rser1	3b	3	42mohm	
Lsec1	8	6a	28uH	
Rser5	6a	6	370mohm	
Lsec2	7	5a	2.16uH	
Rser6	5a	5	115mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=19pf				
.param Rdmp1=30348.84ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750319497		1  3  8  6  7  5	
.param RxLkg=1122.95ohm				
.param Leakage=0.245uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	6.755uH	
Rser1	3b	3	42mohm	
Lsec1	8	6a	24.975uH	
Rser5	6a	6	350mohm	
Lsec2	7	5a	1.383uH	
Rser6	5a	5	95mohm	
K Lpri1    Lsec1 Lsec2       1				
.param Cprm1=17pf				
.param Rdmp1=32084.43ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	8	0	20meg	
Rg12	7	0	20meg	
Rg19	6	0	20meg	
Rg20	5	0	20meg	
.ends				

.subckt	AGDT_EP7_750319565		1  3  8  6	
.param RxLkg=1562.5ohm				
.param Leakage=2.5uh				
Rlkg	1	1a	{RxLkg}	
L_Lkg	1	1a	{Leakage}	
Lpri1	1a	3b	253.5uH	
Rser1	3b	3	275mohm	
Lsec1	8	6a	1024uH	
Rser5	6a	6	345mohm	
K Lpri1    Lsec1        1				
.param Cprm1=25pf				
.param Rdmp1=160000.26ohm				
Cpri1	1	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Rdmp1	1	3	{Rdmp1}	
Rg3	1	0	20meg	
Rg7	3	0	20meg	
Rg11	8	0	20meg	
Rg19	6	0	20meg	
.ends				
